US06897224B2
2-Ethylquinolin-5-ylamine
1.0 g (5.0 mmol) of 5-nitro-2-vinylquinoline is dissolved in 30 ml of ethyl acetate. After 100 mg of palladium on carbon and 50 mg of sodium carbonate are added, the reaction mixture is allowed to stir for 20 hours at room temperature under hydrogen atmosphere. It is then filtered on Celite and washed with ethyl acetate. After the solvent is removed in a vacuum and after chromatography on silica gel with hexane-ethyl acetate (0-100%), then with ethyl acetate-methanol (0-30%), 720 mg (84% of theory) of the product is obtained.

reactant | 5-nitro-2-vinylquinoline | 5.0 mmol, 1.0 g | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)C=C | C11H8N2O2
reactant | sodium carbonate | 50 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 2-Ethylquinolin-5-ylamine | C(C)C1=NC2=CC=CC(=C2C=C1)N | C11H12N2
